US09303033B2
To (Z)-5-((5-(5-chloro-2-fluorophenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)-3-(hydroxymethyl)imidazolidine-2,4-dione (100 mg, 0.218 mmol) in DMF (3 mL) was added Boc-Gly-OH (153 mg, 0.873 mmol), dicyclohexylcarbodiimide (180 mg, 0.873 mmol), and DMAP (13 mg, 0.109 mmol). The reaction mixture was stirred at room temperature overnight, then diluted with ethyl acetate and washed 1× with 1M HCl followed by 3× brine. The organic layer was dried with MgSO4, filtered and adsorbed onto silica gel. The crude material was purified by column chromatography eluting with 5-15% EtOAc/CH2Cl2 gradient. Pure fractions were combined and the solvent was removed. To the residue was added 4M HCl/dioxane (4 mL) and stirred at room temperature for 2 h. Removed excess HCl/dioxane. To the residue was added diethyl ether and the suspension was sonicated. The resulting solid was filtered off and washed with diethyl ether. Dried under vacuum to provide 23 mg (21%) of (Z)-(4-((5-(5-chloro-2-fluorophenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)-2,5-dioxoimidazolidin-1-yl)methyl 2-aminoacetate hydrogen chloride as a yellow solid. (LCMS (ES): >95% pure, m/z 515 [M+1]+.

reactant | (Z)-5-((5-(5-chloro-2-fluorophenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)-3-(hydroxymethyl)imidazolidine-2,4-dione | 0.218 mmol, 100 mg | ClC=1C=CC(=C(C1)NC1=NC=2N(C(=C1)NC1CC1)N=CC2\C=C/2\C(N(C(N2)=O)CO)=O)F | C20H17ClFN7O3
reactant | Boc-Gly-OH | 0.873 mmol, 153 mg | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
reactant | dicyclohexylcarbodiimide | 0.873 mmol, 180 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.109 mmol, 13 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (Z)-(4-((5-(5-chloro-2-fluorophenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)-2,5-dioxoimidazolidin-1-yl)methyl 2-aminoacetate hydrogen chloride | 23 mg, 21% | Cl.NCC(=O)OCN1C(N\C(\C1=O)=C/C=1C=NN2C1N=C(C=C2NC2CC2)NC2=C(C=CC(=C2)Cl)F)=O | InChI=1S/C22H20ClFN8O4.ClH/c23-12-1-4-14(24)15(6-12)28-17-7-18(27-13-2-3-13)32-20(30-17)11(9-26-32)5-16-21(34)31(22(35)29-16)10-36-19(33)8-25;/h1,4-7,9,13,27H,2-3,8,10,25H2,(H,28,30)(H,29,35);1H/b16-5-;
